2125-11-15 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   FEVER - 102.6
 BCx sent
   No other events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-14**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-11-14**] 10:05 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feeling slightly improved. Pain in LLQ. No frank
   fevers or chills. (Conversation limited by language)
   Flowsheet Data as of  [**2125-11-15**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 120 (84 - 123) bpm
   BP: 115/62(73) {89/50(61) - 164/125(128)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    811 mL
                                                                  1,037 mL
   PO:
             TF:
   IVF:
                                                                    811 mL
                                                                  1,037 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    220 mL
   Urine:
                                                                    350 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                    817 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GEN: NAD, occasional moaning of unclear significance, cooperative,
   alert.
   HEENT: PERRLA, EOMI, Dry MM
   NECK: Supple, LAD
   RESP: b/l AE coarse b/l breath sounds.
   CARD: S1S2 No MRG
   ABD: Soft, Tender To Palpation in LLQ, +ostomy RLQ with pink mucosa,
   draining brown stool. L.flank +nephrostomy tube, No rebound or guarding
   or rebound
   Extr -no c/c 1+pitting edema
   Neuro - AAOx3, cn 2-12 intact.
   Labs / Radiology
   162 K/uL
   12.4 g/dL
   130 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   14 mg/dL
   100 mEq/L
   136 mEq/L
   37.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
   WBC
   13.7
   Hct
   37.6
   Plt
   162
   Cr
   1.7
   Glucose
   130
   Other labs: Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   61 year old male with multiple medical problems s/p replacement of left
   percutaneous nephrostomy tube for obstructing renal stone who has been
   admitted to the hospital mutiple times for urosepsis who was febrile,
   tachycardic and c/o pain.
   .
   #infection-Pt with known Pseudomonas UTI's, urosepsis, in the past,
   nephrolithiasis, nephrostomy tubes. Nephrostomy tube fell out at
   nursing home and replaced today by IR. However, pt now with fever,
   tachycardia, LLQ pain and ?pus at perc tube site. Suspect urinary tract
   as source of infection at this time. However, also must consider PNA,
   GI given ostomy and LLQ abd pain. Pt with recent h.o c.diff.
   -trend fever curve, wbc count.
   -2 PIVs
   -broad spectrum abx, cefepime/vanco/flagyl.
   -f/u bcx, ucx.
   -cxr.
   -IVF
   .
   #LLQ abd pain-etiology unclear. Likely secondary to recent perc tube
   change. Could also be secondary to stone. Other possibilities include
   colitis, c.diff, related to ostomy etc.
   -KUB
   -pain control
   -guaiac stools
   -will consider need for futher imaging such as CT abd/pelvis to r/o
   abscess.
   .
   #tachycardia-sinus tachycardia. Pt has reasons including pain,
   hypovolemia, recent fever. Will monitor on tele overnight. EKG. TSH.
   Consider PE, or cardiac cause however sating well. NO CP. will add on
   CE's.
   .
   #ARF-baseline Cr appears to be around 1. Now 1.4. Could be secondary to
   stones causing obstruction, however, per uro drains functioning
   appropriately. Could be secondary to infection. Could be due to
   prerenal causes/hypovolemia.
   -IVF
   -renal lytes
   -avoid nephrotoxins
   -trend cr
   -consider further renal imaging.
   .
   #DM-fs qid, continue outpt lantus with HISS.
   -DM diet.
   .
   #HTN-will monitor and consider need for BB
   .
   #HL-continue statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-14**] 08:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-11-15 12:55:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had stable hemodynamics overnight. No need for additional
   pressors. Given fluid to sustain urine output.
   24 Hour Events:
 FEVER - 102.6
F - [**2125-11-15**] 04:00 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-15**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-11-15**] 09:18 AM
   Other medications:
   flagyl, cefipime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-15**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.2
C (100.7
   HR: 99 (84 - 123) bpm
   BP: 130/65(82) {89/50(61) - 164/125(128)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    811 mL
                                                                  3,609 mL
   PO:
             360 mL
   TF:
   IVF:
                                                                    811 mL
                                                                  3,249 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    860 mL
   Urine:
                                                                    350 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                  2,749 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorally and laterally, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: LLQ with rebound, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   162 K/uL
   130 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   14 mg/dL
   100 mEq/L
   136 mEq/L
   37.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
   WBC
   13.7
   Hct
   37.6
   Plt
   162
   Cr
   1.7
   TropT
   0.03
   Glucose
   130
   Other labs: CK / CKMB / Troponin-T:39/2/0.03, Differential-Neuts:77.0
   %, Band:1.0 %, Lymph:13.0 %, Mono:7.0 %, Eos:1.0 %, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O URINARY TRACT INFECTION (UTI)
   Hemodynamics have been stable with fluid resuscitation. Oxygenation has
   been good on minimal supplemental O2. Urine output is adequate.
   Continues on antibiotics.
   Abdominal pain remains significant with localization to the LLQ; not
   radiating laterally. Doubt ischemic colitis. Will proceed with
   abdominal CT scan to further assess intra-abdominal pathology. Cultures
   pending.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-14**] 08:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2125-11-16 07:23:00 Physician Resident Progress Note
Chief Complaint: abd pain s/p replacement of nephrostomy tube
   24 Hour Events:
 URINE CULTURE - At [**2125-11-16**] 04:00 AM
 FEVER - 101.6
F - [**2125-11-15**] 04:00 PM
   -Cultures with no growth to date
   -CT abd with: Large subcapsular renal hematoma. Urology ([**Numeric Identifier 6488**])
   does not think any intervention is needed at this time. Hct began to
   drop o/n.  Alerted urology. Ordered am CT abd and pelvis after
   consultation with radiology- does not think ultrasound would be as
   helpful at this time.
   -CE stable
   -Urine lytes- FeNA 1.1%
   -urology recs- with check drainage again on [**11-16**] to see if it clears
   -PICC ordered
   -Pt refused blood products as he is a Jehova's Witness.
   -Cx NGTD
   -Kept I/O positive for day
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2125-11-15**] 06:31 PM
   Vancomycin - [**2125-11-15**] 07:50 PM
   Metronidazole - [**2125-11-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-11-15**] 03:11 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Flowsheet Data as of  [**2125-11-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 128 (90 - 134) bpm
   BP: 125/63(78) {98/53(64) - 179/93(115)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  5,183 mL
                                                                  1,616 mL
   PO:
                                                                    410 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  4,773 mL
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    835 mL
   Urine:
                                                                  1,605 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,578 mL
                                                                    781 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: No(t) Soft, Distended, Tender: suprapubic and around left
   nephrostomy tube
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   133 K/uL
   9.2 g/dL
   116 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   27.4 %
   15.0 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
                            [**2125-11-15**]  04:28 PM
                            [**2125-11-16**]  03:00 AM
   WBC
   13.7
   15.0
   15.0
   Hct
   37.6
   36.6
   27.4
   Plt
   162
   155
   133
   Cr
   1.7
   1.7
   1.4
   TropT
   0.03
   Glucose
   130
   118
   116
   Other labs: CK / CKMB / Troponin-T:39/2/0.03, Differential-Neuts:77.0
   %, Band:1.0 %, Lymph:13.0 %, Mono:7.0 %, Eos:1.0 %, Ca++:7.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O URINARY TRACT INFECTION (UTI)
   61 year old male s/p replacement of L  perc nephrostomy tube for
   obstructing renal stone presented with fever, tachycardia and L flank
   pain.
   .
   # Infection
 Tm 101.6 now with leukocytosis. Pt with prior known
   Pseudomonas UTI's, urosepsis. Urology to come see pt today.  Day #2 of
   Cetaz/Vanc/Flagyl. Hematoma around kidney could also be cause of fever.
   - Cont trending fever curve, wbc count.
   - 2 PIVs
   - Broad Spectrum abx, cetaz/vanco/flagyl.- not double covering for
   pseudomonas but could consider if clinical picture deteriorates
   - f/u bcx, ucx.- resending UA from nephrostomy today
   - LR IVF prn for tachycardia
   .
   # LLQ abd pain- Likely [**2-3**] hematoma around kidney in area of
   nephrostomy tube.
   - f/ufinal read rpt CT
   - pain control with IV morphine
   - Urology to come by and re-examine pt this am
   .
   # Sinus Tachycardia: In setting of pain, hypovolemia, recent fever. TSH
   WML.
   - Cont IVF resuscitation prn
   - Treat underlying infection as above
   .
   # ARF
 Cr 1.4 from 1 baseline. DDx includes Pre-renal since pt appears
   dry compared to obstructive causes.  FeNA yest 1.1
   - Trending Cr
   - Cont IVF
   .
   # DM -fs qid, continue outpt lantus with HISS.
   .
   # HTN- will monitor and consider need for BB
   .
   # HL- Stable, continue statin
   ICU Care
   Nutrition: NPO for now until check in with urology and get read of CT
   torso from rads
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-15**] 10:12 PM
   PICC placement ordered for today
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code but no blood products
   Disposition:ICU

2125-11-16 09:29:00 Physician Attending Progress Note
Chief Complaint: Fever, hypotension, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CT abdomen showed a large subcapsular hematoma with some extension to
   pelvis. Hct dropped from 36 to 27. Repeat CT pending.
   Cultures remain negative.
   Has required fluid boluses for tachycardia. Fluid balance positive 3.5
   L yesterday. Serum bicarb is falling.
   Febrile to 101.6
   Oxygen saturations very good on minimal supplemental O2.
   24 Hour Events:
 URINE CULTURE - At [**2125-11-16**] 04:00 AM
 FEVER - 101.6
F - [**2125-11-15**] 04:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-15**] 07:50 PM
   Ceftazidime - [**2125-11-16**] 06:00 AM
   Metronidazole - [**2125-11-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-11-15**] 03:11 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-16**] 12:00 AM
   Other medications:
   Insulin, colace, MVI, iron, ASA, simvastatin, gabapentin, folic acid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-16**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 122 (93 - 134) bpm
   BP: 120/66(77) {120/63(77) - 179/93(115)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  5,183 mL
                                                                  1,690 mL
   PO:
                                                                    410 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  4,773 mL
                                                                  1,640 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                  1,110 mL
   Urine:
                                                                  1,605 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,578 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Distant), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Few rales right lateral chest, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Moderate pain with gentle percussion of left
   abdomen, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   148 K/uL
   116 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   29.4 %
   16.4 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
                            [**2125-11-15**]  04:28 PM
                            [**2125-11-16**]  03:00 AM
                            [**2125-11-16**]  06:58 AM
   WBC
   13.7
   15.0
   15.0
   16.4
   Hct
   37.6
   36.6
   27.4
   29.4
   Plt
   162
   155
   133
   148
   Cr
   1.7
   1.7
   1.4
   TropT
   0.03
   Glucose
   130
   118
   116
   Other labs: CK / CKMB / Troponin-T:39/2/0.03, Differential-Neuts:77.0
   %, Band:1.0 %, Lymph:13.0 %, Mono:7.0 %, Eos:1.0 %, Ca++:7.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Imaging: CT abdomen: the hematoma in left kidney does not appear
   significantly changed; formal [**Location (un) 308**] pending.
   CXR: rotated film. Possible infiltrate left base.
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O URINARY TRACT INFECTION (UTI)
   ABDOMENAL PAIN
   HYPOTENSION
   FEVER
   ACIDOSIS
   Fever persists despite antibiotics; awaiting additional cultures. WBC
   up slightly today. Consider double coverage for gram negative bacteria.
   BP has been stable. Patient has received fluid boluses for tachycardia
   (urine output usually good at the time),  with only modest change. Has
   other causes for tachycardia including fever and pain. Suspect the
   latter factors are more likely the cause of tachyardia.
   Worsening acidiosis in non-gap and likely reflects volume resuscitation
   with normal saline. If additional fluids needed, would use lactated
   Ringers.
   Hct down, likely due to hematoma. Patient does not require transfusion
   now and as a Jehovah's witness, he does not want transfusions.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-15**] 10:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication:  Comments:
   Code status:  Full code
   Disposition : ICU
   Total time spent:  Critical care 35 mins.

2125-11-17 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2125-11-16**] 11:31 AM
 URINE CULTURE - At [**2125-11-16**] 12:03 PM
   from nephrostomy
   - Urology came to see patient and was not impressed by hematoma on CT
   scans -> declined surgery consult
   - Final read from radiologist indicated that subcapsular hematoma of L
   kidney may cause patient's pain.
   - Hct dropped to 26, but remained stable then.  He's refusing blood
   products as he is Jehova's Witness.
   - Cipro d/c'd as infections have been Cipro resistant in the past.
   - Pain meds increased and PICC line placed.
   - Replaced fluid with LR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-15**] 07:50 PM
   Ceftazidime - [**2125-11-16**] 08:00 PM
   Metronidazole - [**2125-11-16**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-11-16**] 03:30 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt still having LLQ pain. Foot pain stable. No
   fevers. Chills.
   Flowsheet Data as of  [**2125-11-17**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 102 (99 - 122) bpm
   BP: 113/55(70) {103/45(57) - 158/96(102)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,836 mL
                                                                    610 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  3,736 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    240 mL
   Urine:
                                                                  2,160 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,676 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: S1S2 No MRG
   Respiratory / Chest: CTAB
   Abdominal: No(t) Soft, Distended, Tender: suprapubic. Left Nephrostomy
   tube in place.
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   148 K/uL
   9.6 g/dL
   116 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   26.6 %
   16.4 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
                            [**2125-11-15**]  04:28 PM
                            [**2125-11-16**]  03:00 AM
                            [**2125-11-16**]  06:58 AM
                            [**2125-11-16**]  11:52 AM
                            [**2125-11-16**]  07:46 PM
   WBC
   13.7
   15.0
   15.0
   16.4
   Hct
   37.6
   36.6
   27.4
   29.4
   26.7
   26.6
   Plt
   162
   155
   133
   148
   Cr
   1.7
   1.7
   1.4
   TropT
   0.03
   Glucose
   130
   118
   116
   Other labs: PT / PTT / INR:17.3/42.2/1.6, CK / CKMB /
   Troponin-T:39/2/0.03, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:13.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   61 year old male s/p replacement of L  perc nephrostomy tube for
   obstructing renal stone presented with fever, tachycardia and L flank
   pain.
   .
   # UTI
 Tm 100.7 with leukocytosis. Day #3 of Cetaz/Vanc/Flagyl. Urine
   (+) for pseudomonas and GNRs x2.
   - Cont trending fever curve, wbc count.
   - 2 PIVs
   - Continue broad spectrum antiobiotics, Cont Ceftaz/Vanco/Flagyl
   - f/u cultures and sensitivites.  Currently not double covering for
   pseudomonas
   - f/u bcx, ucx.- resending UA from nephrostomy today
   .
   # LLQ abd pain- Most likely [**2-3**] hematoma around kidney in area of
   nephrostomy tube.
   - f/ufinal read rpt CT
   - pain control with IV morphine
   - Urology to come by and re-examine pt this am
   .
   # Hyponatremia: Na to 129 this AM in setting of D5W overnight. Mental
   Status stable. Less likely other etiologies for Hyponatremia.
   - d/c D5W
   - PM lytes
   .
   # Anemia: Hct 26.6 from [36-44] on admission. Known intraabdominal
   hematoma. Stable on CT/
   - Cont to follow Hct. Pt refusing transfusions secondary to religion
   (Jehovah
s Witness).
   - Will discuss with surgery if pt
s Hct continues to drop.
   .
   # Sinus Tachycardia: In setting of pain, hypovolemia, recent fever. TSH
   5.5.
   - Cont IVF resuscitation prn
   - Treating underlying infection as above
   .
   # ARF
 Cr 1.4 stable from yesterday. Cr 1 at baseline. Pt making good
   UOP.
   - Trending Cr
   - Cont IVF
   .
   # DM - FS qid, continue outpt lantus with HISS.
   .
   # Hypertension -  will monitor and consider need for BB
   .
   # Hyperlipidemia- Stable, continue statin
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-15**] 10:12 PM
   PICC Line - [**2125-11-16**] 11:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer: Not indicated
   Code status: Full code but no blood products
   Disposition ::[**Hospital Unit Name 44**]

2125-11-17 12:06:00 Physician Attending Progress Note
Chief Complaint: 61 yr old hx of CVA, neurogenic bladder, NHL, DM,
   lupus, obstructing renal stones, colostomy for partial SB obstructions.
   Pt was admitted with urosepsis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2125-11-16**] 11:31 AM
 URINE CULTURE - At [**2125-11-16**] 12:03 PM
   from nephrostomy
   Admitted with fever following replacement of accidentally loss of left
   perc nephrostomy tube. Found to have a subcapsular hematoma of left
   kidney. Also had decreased Hct but no transfusions as he is a Jahova's
   Witness and refused blood products.
   Picc line placed yesterday.
   C/o mild leg pain
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2125-11-16**] 08:00 PM
   Metronidazole - [**2125-11-16**] 10:00 PM
   Vancomycin - [**2125-11-17**] 09:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-11-16**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, uncomfortable but no pain
   Flowsheet Data as of  [**2125-11-17**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 104 (96 - 118) bpm
   BP: 118/52(68) {103/45(57) - 158/68(87)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,836 mL
                                                                    800 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  3,736 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    760 mL
   Urine:
                                                                  2,160 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,676 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Tender: LLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): all
   three spheres, Movement: Not assessed, Tone: Not assessed, slightly
   lethargic
   Labs / Radiology
   8.0 g/dL
   106 K/uL
   372 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   5 mg/dL
   100 mEq/L
   129 mEq/L
   25.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
                            [**2125-11-15**]  04:28 PM
                            [**2125-11-16**]  03:00 AM
                            [**2125-11-16**]  06:58 AM
                            [**2125-11-16**]  11:52 AM
                            [**2125-11-16**]  07:46 PM
                            [**2125-11-17**]  06:03 AM
   WBC
   13.7
   15.0
   15.0
   16.4
   10.4
   Hct
   37.6
   36.6
   27.4
   29.4
   26.7
   26.6
   25.7
   Plt
   162
   155
   133
   148
   106
   Cr
   1.7
   1.7
   1.4
   1.4
   TropT
   0.03
   Glucose
   130
   118
   116
   372
   Other labs: PT / PTT / INR:17.3/42.2/1.6, CK / CKMB /
   Troponin-T:39/2/0.03, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:13.0
   %, Mono:7.0 %, Eos:1.0 %, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Imaging: CT chest/abdomen [**2125-11-16**]
   1. Slight interval increase in fluid collection in the right lower
   quadrant
   and pelvis tracking from the left pararenal space consistent with small
   amount of intraperitoneal hemorrhage. Stable subcapsular left renal
   hematoma.
   2. Status post left nephrostomy tube exchange which demonstrates stable
   position in the left renal pelvis compared to [**2125-11-15**].
   3. Stable dilation of the left ureter compared to [**2125-11-15**].
   4. Bilateral pleural effusions, unchanged from [**2125-11-15**]. No
   evidence of hemothorax.
   5. Stable bilateral renal calculi that are nonobstructing.
   6. Cholelithiasis without evidence of cholecystitis.
   7. Fatty liver infiltration.
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O URINARY TRACT INFECTION (UTI)
   ARF - improving, likely some component of being pre-renal + urosepsis
   Hyponatremia - likely due to free water administration
   Mental status - good
   Urosepsis - pseudomonas being covered, not on pressors, doing well.
   Continue with ceftaz for 10 day total course.
   Recent c diff
 c/w PO flagyl
   Anemia - no need for transfusion but refusing d/t Jahova's Witness
   status
   Dispo
 appears stable enough for transfer to floor. Will touch base
   with urology to discuss.
   ICU Care
   Diet: to be advanced
   Lines:
   20 Gauge - [**2125-11-15**] 10:12 PM
   PICC Line - [**2125-11-16**] 11:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status:
   Disposition :
   Total time spent: 34 minutes
   Patient is critically ill

2125-11-18 08:17:00 Physician Resident Progress Note
Chief Complaint: abd pain, fever, tachycardia
   24 Hour Events:
   -Called out in afternoon but refused by attending [**2-3**] Tachycardia to
   90's , SBP 90's. Thus, pt called back in.
   -Overnight, bolused with NS and tachycardia down to 110's, BP improved.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-17**] 09:00 AM
   Metronidazole - [**2125-11-18**] 12:00 AM
   Ceftazidime - [**2125-11-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-11-18**] 04:11 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   decr appetite
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Flowsheet Data as of  [**2125-11-18**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 109 (96 - 130) bpm
   BP: 141/67(86) {95/45(58) - 164/78(93)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,417 mL
                                                                  1,033 mL
   PO:
                                                                    300 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  3,117 mL
                                                                    883 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                  1,700 mL
   Urine:
                                                                  2,595 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    822 mL
                                                                   -667 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: in LLQ and suprapubic, Obese, ostomy intact
   and nephrostomy tube in place externally without surrounding tenderness
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   150 K/uL
   8.6 g/dL
   117 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   4 mg/dL
   111 mEq/L
   139 mEq/L
   26.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2125-11-15**]  03:56 AM
                            [**2125-11-15**]  04:28 PM
                            [**2125-11-16**]  03:00 AM
                            [**2125-11-16**]  06:58 AM
                            [**2125-11-16**]  11:52 AM
                            [**2125-11-16**]  07:46 PM
                            [**2125-11-17**]  06:03 AM
                            [**2125-11-17**]  05:00 PM
                            [**2125-11-17**]  05:21 PM
                            [**2125-11-18**]  04:39 AM
   WBC
   13.7
   15.0
   15.0
   16.4
   10.4
   9.8
   Hct
   37.6
   36.6
   27.4
   29.4
   26.7
   26.6
   25.7
   26.6
   26.3
   Plt
   162
   155
   133
   148
   106
   150
   Cr
   1.7
   1.7
   1.4
   1.4
   1.5
   1.4
   1.3
   TropT
   0.03
   Glucose
   130
   118
   116
   372
   82
   97
   117
   Other labs: PT / PTT / INR:17.2/35.0/1.6, CK / CKMB /
   Troponin-T:39/2/0.03, Differential-Neuts:75.6 %, Band:1.0 %, Lymph:13.4
   %, Mono:5.4 %, Eos:5.4 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O URINARY TRACT INFECTION (UTI)
   61 year old male s/p replacement of L  perc nephrostomy tube for
   obstructing renal stone presented with fever, tachycardia and L flank
   pain.
   .
   # UTI
 Tm 100.8 o/n with resolving leukocytosis. Day #5 of
   Cetaz/Vanc/Flagyl. Urine (+) for pseudomonas and providencia. Pt has
   had positive urine cultures in the past for pseudomonas and may very
   well be colonized with back harbored in his renal stones which will not
   be eradicated with IV abx.
   - Cont trending fever curve, wbc count.
   - 2 PIVs
   - Continue broad spectrum antiobiotics, Cont Ceftaz/Flagyl.
   Discontinued Vanco. Should consider double coverage for pseudomonas if
   pt appears clinically worse
   - f/u cultures and sensitivites.
   - f/u bcx, ucx.- resending UA today
   .
   # LLQ abd pain- Most likely [**2-3**] hematoma around kidney in area of
   nephrostomy tube.  However, with decr outpt from his colostomy, need to
   rule out SBO or ileus.
   - f/u final read KUB- if sx continue and KUB not definitive, will
   consider CT abd.
   - pain control with IV morphine- this is likely why pain only [**3-12**]
   .
   # Hyponatremia: Na to 129 this AM in setting of D5W overnight. Mental
   Status stable. Less likely other etiologies for Hyponatremia.
   - d/c D5W
   - PM lytes
   .
   # Anemia: Hct 26.3- stable over last 2 days. Known intraabdominal
   hematoma. Stable on CT
   - Cont to follow Hct. Pt refusing transfusions secondary to religion
   (Jehovah
s Witness).
   - Will discuss with surgery if pt
s Hct continues to drop.
   .
   # Sinus Tachycardia: In setting of pain, anemia, hypovolemia, recent
   fever- anemia is most likely cause as pt is also normotensive and s/p
   multiple fluid boluses. TSH 5.5.
   - Cont IVF resuscitation prn
   - Treating underlying infection as above
   .
   # ARF
 Cr 1.3 stable from yesterday. Cr 1 at baseline. Pt making good
   UOP.
   - Trending Cr
   - Cont IVF prn
   .
   # DM - FS qid, continue outpt lantus with HISS.
   .
   # Hypertension -  will monitor and consider need for BB
   .
   # Hyperlipidemia- Stable, continue statin
   ICU Care
   Nutrition: Regular diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-15**] 10:12 PM
   PICC Line - [**2125-11-16**] 11:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code- no blood products.
   Disposition:Transfer to floor pending discussion on rounds